US08809342B2
(+/−)-5-[3-Methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carboxylic acid (636 mg, theoretical 596 mg, 1.39 mmol) was combined with N-(3-dimethylaminopropyl)-N′-ethylcarbodimide hydrochloride (399 mg, 2.08 mmol), 1-hydroxybenzotriazole hydrate (319 mg, 2.08 mmol), and anhydrous dichloromethane (10 mL). Beta-alanine ethyl ester hydrochloride (256 mg, 1.67 mmol) was added followed by triethylamine (0.386 mL, 2.78 mmol). This was stirred at room temperature as a solution for 17 h before the reaction was partitioned between ethyl acetate and sat. NH4Cl. The aqueous layer was extracted with ethyl acetate and the combined organics dried over MgSO4. Purification by silica gel flash chromatography (ethyl acetate/heptanes followed by methanol/ethyl acetate) gave impure material. The residue was partitioned between ethyl acetate and sat. NaHCO3. The aqueous layer was extracted with ethyl acetate and the combined organics dried over MgSO4 and concentrated in vacuo to give (+/−)-3-({5-[3-methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carbonyl}-amino)-propionic acid ethyl ester (0.687 g, 94%) as a clear oil. 1H NMR (400 MHz, CDCl3, δ): 8.17 (t, J=6.2 Hz, 1 H) 8.09 (s, 2 H) 7.62-7.73 (m, 4 H) 7.56 (d, J=8.2 Hz, 2 H) 7.40 (d, J=8.2 Hz, 2 H) 4.53-4.58 (m, 1 H) 4.44-4.52 (m, 1 H) 4.11-4.19 (m, 2 H) 3.72 (q, J=6.2 Hz, 2 H) 2.61 (t, J=6.0 Hz, 2 H) 1.66-1.87 (m, 3 H) 1.21-1.29 (m, 3 H) 1.04 (d, J=6.0 Hz, 3 H) 0.99 (d, J=5.9 Hz, 3 H); MS (M+1): 529.7.

reactant | (+/−)-5-[3-Methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carboxylic acid | 1.39 mmol, 636 mg | CC(CC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC=1C=NC(=NC1)C(=O)O)C | C23H22F3N3O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodimide hydrochloride | 2.08 mmol, 399 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 2.08 mmol, 319 mg | O.ON1N=NC2=C1C=CC=C2
reactant | Beta-alanine ethyl ester hydrochloride | 1.67 mmol, 256 mg | Cl.C(C)OC(CCN)=O
reactant | triethylamine | 2.78 mmol, 0.386 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (+/−)-3-({5-[3-methyl-1-(4′-trifluoromethyl-biphenyl-4-yl)-butylamino]-pyrimidine-2-carbonyl}-amino)-propionic acid ethyl ester | 0.687 g, 94% | C(C)OC(CCNC(=O)C1=NC=C(C=N1)NC(CC(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C28H31F3N4O3
